US07855166B2
30.00 g (99.64 mmol) of 2-fluoro-6-iodobenzenesulfonamide, obtained from the reaction of N-(tert-butyl)-2-fluoro-6-iodobenzenesulfonamide with trifluoroacetic acid in analogy to example A3, are introduced together with 15.15 g (109.61 mmol) of potassium carbonate in 250 ml of dimethylformamide. At room temperature 7.68 g (109.61 mmol) of sodium thiomethoxide are added in portions, after which the mixture is stirred at room temperature for 12 h. It is poured into 150 ml of ice-water, adjusted to a pH of 4-5 using 2 N hydrochloric acid, and extracted with ethyl acetate. The organic phase is dried and evaporated. Preparative HPLC (reversed phase, 0.05% trifluoroacetic acid in water/acetonitrile, gradient: in 30 min, 25% to 100% acetonitrile) gives 7.40 g (23% of theory) of 2-iodo-6-(methylthio)benzenesulfonamide.

reactant | N-(tert-butyl)-2-fluoro-6-iodobenzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1I)F | C10H13FINO2S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2-fluoro-6-iodobenzenesulfonamide | 99.64 mmol, 30.00 g | FC1=C(C(=CC=C1)I)S(=O)(=O)N | C6H5FINO2S
